US07026501B2
L-Tyrosine ethyl ester hydrochloride (10.0 g) was acylated with 2,6-difluorobenzoyl chloride in a similar manner as described in Example 1-(5) to give N-(2,6-difluorobenzoyl)-L-tyrosine ethyl ester (13.2 g). mp. 149-150° C.; IR (Nujol) 3424, 3277, 1721, 1660, 1624 cm−1; MS (APCI) m/z 350 (M+H).

reactant | L-Tyrosine ethyl ester hydrochloride | 10.0 g | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | 2,6-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
product | N-(2,6-difluorobenzoyl)-L-tyrosine ethyl ester | 13.2 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1F)F)=O)CC1=CC=C(C=C1)O)=O | C18H17F2NO4
